US05990105
22.30 g (0.052 mol) of 2,6-dibromo-4-(4-nitrobenzenesulphonyl)-pyridine were suspended in a mixture of 275 ml of methanol and 275 ml of dioxane, treated with 22.30 g of powdered iron and a solution of 22.30 g of NH4Cl in 550 ml of water and heated at reflux for 1.5 hrs. Then, the organic solvents were distilled off on a rotary evaporator and the residue was diluted with 1.0 l of dichloromethane and suction filtered. The filter material was suspended in a mixture of 250 ml of methanol and 250 ml of dichloromethane in an ultrasound bath, again suction filtered and the filtrate was retained. The first filtrate was separated in a separating funnel and the organic phase was washed with sat. sodium chloride solution, dried over MgSO4, filtered and concentrated together with the second filtrate. The residue was chromatographed on silica gel with dichloromethane. There were obtained 16.6 g (80%) of 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine as yellowish crystals; m.p.: 196-198° C. (dec.).

reactant | 2,6-dibromo-4-(4-nitrobenzenesulphonyl)-pyridine | 0.052 mol, 22.30 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])Br | C11H6Br2N2O4S
reactant | NH4Cl | 22.30 g | [NH4+].[Cl-]
solvent | methanol | 275 ml | CO | CH4O
solvent | dioxane | 275 ml | O1CCOCC1 | C4H8O2
solvent | water | 550 ml | O | H2O
catalyst | iron | 22.30 g | [Fe] | Fe
product | 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine | 16.6 g, 80% | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)Br | C11H8Br2N2O2S
